US07317033B2
b) N-(2-Amino-3-methoxyphenyl)-N′-(4-methyl-3-thienyl)thiourea
is obtained analogously to the procedure described in example 25 a) from 3-methoxy-1,2-diaminobenzene and 4-methyl-3-thienyl isothiocyanate in anhydrous THF, followed by medium-pressure chromatography on silica gel using a mixture of 1 part of toluene and 1 part of ethyl acetate. Crystalline solid, m.p.: 148-153° C. Solidification of the melt and next m.p. at 260° C.

reactant | 3-methoxy-1,2-diaminobenzene | COC=1C(=C(C=CC1)N)N | C7H10N2O
reactant | 4-methyl-3-thienyl isothiocyanate | CC=1C(=CSC1)N=C=S | C6H5NS2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
product | N-(2-Amino-3-methoxyphenyl)-N′-(4-methyl-3-thienyl)thiourea | NC1=C(C=CC=C1OC)NC(=S)NC1=CSC=C1C | C13H15N3OS2
